US09382236B2
(3) N-[3-(2-Oxo-2,3-dihydro-1H-naphtho[1,2-e]-1,4-diazepin-5-yl)-phenyl]benzenesulfonamide
5-(3-Aminophenyl)-1,3-dihydronaphtho[1,2-e]-1,4-diazepin-2-one (10 mg, 0.033 mmol), and benzenesulfonyl chloride (13 μL, 0.1 mmol) were treated by heating in pyridine (1.0 mL). A post-treatment was performed in a conventional manner to give the title compound (14 mg, yield 95%) as white amorphous.

reactant | 5-(3-Aminophenyl)-1,3-dihydronaphtho[1,2-e]-1,4-diazepin-2-one | 0.033 mmol, 10 mg | NC=1C=C(C=CC1)C=1C2=C(NC(CN1)=O)C1=CC=CC=C1C=C2 | C19H15N3O
reactant | benzenesulfonyl chloride | 0.1 mmol, 13 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-(2-Oxo-2,3-dihydro-1H-naphtho[1,2-e]-1,4-diazepin-5-yl)-phenyl]benzenesulfonamide | 14 mg, yield 95% | O=C1CN=C(C2=C(N1)C1=CC=CC=C1C=C2)C=2C=C(C=CC2)NS(=O)(=O)C2=CC=CC=C2 | C25H19N3O3S
